US07405221B2
To a 25 mL round bottom flask fitted with a stirrer bar was added 3 mL DMF, 3,4-difluorobenzyl alcohol (113.3 mg, 0.79 mmol) and sodium hydride (60% in oil, 52.4 mg, 1.31 mmol). The flask was flushed with N2, stoppered with a rubber septum and 2-methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine (100 mg, 0.26 mmole) from Reference Example 3 was added via syringe in 500 μL of DMF for 90 min. Aqueous ammonium chloride was added, the mixture extracted with ethyl acetate (3×) and the combined organics dried over anhydrous MgSO4. The solution was filtered and the volume reduced by rotoevaporation. Flash column chromatography on silica gel (eluted with 96/4 hexanes/ethyl acetate) afforded 2-(3,4-difluorobenzyloxy)-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=478 (M++1); Rt=4.85 min; 1H-NMR 400 MHz (CDCl3): 5.49 (s, 2H), 7.1-7.12 (d, J=9 Hz, 2H), 7.14-7.25 (m, 5H), 7.26-7.40 (m, 2H), 7.43 (s, 1H), 8.48 (s, 1H) and 2-(3,4-difluorobenzyloxy)-4-(4-chlorophenyl)-5-(2-chloro-4-thiomethylphenyl)-pyrimidine (LRf): HPLC/MS: m/e=489 (M++1); Rt=4.74 min; 1H-NMR 400 MHz (CDCl3): δ 2.45 (s, 3H), 5.55 (s, 2H), 7.1-7.18 (d, 2H), 7.2-7.6 (m, 8H), 8.42 (s, 1H).

reactant | 3,4-difluorobenzyl alcohol | 0.79 mmol, 113.3 mg | FC=1C=C(CO)C=CC1F | C7H6F2O
reactant | sodium hydride | 1.31 mmol, 52.4 mg | [H-].[Na+]
reactant | 2-methylthio-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | 0.26 mmole, 100 mg | CSC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H11Cl3N2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-difluorobenzyloxy)-4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)pyrimidine | FC=1C=C(COC2=NC=C(C(=N2)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C23H13Cl3F2N2O
